US05652241
1-[4-[4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butoxy]-3-methoxyphenyl]ethanone
A stirred mixture of 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride (5.1 g, 0.02 mol), K2CO3 (5.2 g, 0.04 mol), 1-[4-(4-bromobutoxy)-3-methoxyphenyl]methanone (6.6 g, 22 mmol), and dimethylformamide (60 ml) was heated at 75° C. for 5 hours. The reaction was poured into water, and the aqueous mixture was extracted with ethyl acetate. The ethyl acetate was washed (water), dried (MgSO4), and the solvent was concentrated to yield initially an oil, which solidified upon standing. The solid was triturated with hexane and collected to afford 7.7 g of the product as a waxy solid. The compound was chromatographed on a Waters Prep 500 utilizing silica gel columns and eluting with dichloromethane/methanol (5%). Concentration of the appropriate fractions yielded 5.1 g of off-white solid 1-[4-[4-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-butoxy]-3-methoxyphenyl]ethanone, which when recrystallized from ethyl alcohol yielded 3.2 g (36%) of feathery-white needles, m.p.=88°-90° C.

reactant | 6-fluoro-3-(4-piperidinyl)-1,2-benzisoxazole hydrochloride | 0.02 mol, 5.1 g | Cl.FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1
reactant | K2CO3 | 0.04 mol, 5.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-[4-(4-bromobutoxy)-3-methoxyphenyl]methanone | 22 mmol, 6.6 g | BrCCCCOC1=C(C=C(C=C1)C=O)OC | C12H15BrO3
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-[4-[4-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]butoxy]-3-methoxyphenyl]ethanone | 7.7 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCCOC2=C(C=C(C=C2)C(C)=O)OC)C=C1 | C25H29FN2O4
